* C:\Users\PC-xx\Documents\GitHub\ee-projekt\Calculations\3p ensretter.asc
D2 N001 N002 DI_1N4006
D3 N003 N002 DI_1N4006
D6 N005 N002 DI_1N4006
C1 N002 0 15m
R1 N002 0 50
R2 N002 N004 100k
R3 N004 0 20k
C2 N004 0 5µ
V1 N001 0 SINE(0 15.745 100 0 0 0)
V2 N003 0 SINE(0 15.745 100 0 0 120)
V3 N005 0 SINE(0 15.745 100 0 0 240)
D1 0 N001 DI_1N4006
D4 0 N003 DI_1N4006
D5 0 N005 DI_1N4006
.model D D
.lib C:\Users\PC-xx\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1s
.backanno
.end
